* C:\Users\Arthur\memristive-brain\dopamine-modulation\main_device_schematics\transform.asc
XU1 N031 N028 +5 -5 N023 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R1 N023 N028 300K
R2 N031 0 10K
R3 N031 N030 100K
XU2 N033 N025 +5 -5 N016 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C1 0 N033 1µ
R4 N033 Tpost 10K
R5 N045 Tpre 10K
R6 N016 N025 10K
R7 N031 N018 100K
XU3 N032 N024 +5 -5 N030 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D1 0 N024 D
D2 P001 N032 D
R8 N030 N032 1Meg
R9 0 N032 600K
R10 P001 0 100K
C2 P001 N016 0.02µ
R11 N030 N024 20K
C3 N024 0 600n
R12 0 N028 10K
D3 N023 N029 D
R13 N031 -5 100K
XU4 N044 N039 +5 -5 N042 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D4 0 N039 D
D5 P002 N044 D
R14 N042 N044 1Meg
R15 0 N044 600K
R16 P002 0 100K
R17 N042 N039 20K
C4 N039 0 600n
C5 P002 N018 0.02µ
XU5 N043 N041 +5 -5 N037 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R18 N037 N041 300k
R19 N043 0 10K
R20 N043 N042 100K
R21 N043 N016 100K
R22 0 N041 10K
D6 N037 P003 D
R23 N043 -5 100K
R24 Inhibitor N022 30k
R25 N022 N029 15K
R26 N036 N022 15K
R27 N016 N033 1Meg
R28 N025 0 1Meg
XU6 N045 N040 +5 -5 N018 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C6 0 N045 1µ
R29 N018 N040 10K
R30 N018 N045 1Meg
R31 N040 0 1Meg
XU7 0 N022 +5 -5 Inhibitor level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R32 N036 N038 10k
XU8 0 N038 +5 -5 N036 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R33 N038 P003 10K
C7 Inhibitor N022 0.47µ
XU9 N017 N009 +5 -5 N012 level.3a Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R34 N012 N009 R=(V(mod)*1000+1)
R35 N017 0 10K
R36 N017 N016 100K
R37 0 N009 10K
R38 N017 N010 100K
R39 0 N010 100K
R40 N010 -5 50K
D7 N012 Sombrero D
R41 N011 N007 120K
XU10 N013 N007 +5 -5 N011 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R42 N007 Sombrero 100K
R43 N013 Sombrero 100K
Q1 N013 N021 0 0 BC547B
R44 Hebbian N008 35k
R45 N008 N011 15K
R46 0 N008 15K
XU11 0 N008 +5 -5 Hebbian level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C8 Hebbian N008 0.5µ
R§1k N021 Inhibitor 220
V1 +5 0 6.5
V2 0 -5 6.5
V3 Tpost 0 PULSE(0 3 50m 0 0 20m 118m)
V4 Tpre 0 PULSE(0 3 10m 0 0 20m 120m)
R48 N017 N018 100K
V7 mod 0 PWL(0 100 6 100 7 150 13 150 14 200 20 200 21 250 27 250 28 300 34 300 35 350)
V5 shift 0 0.4
XU18 0 N026 +5 -5 N027 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R76 N034 N027 150k
XU19 N035 N034 +5 -5 iout level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R71 N035 shift 150k
R72 0 N035 150k
R73 iout N034 150k
R74 N026 Inhibitor 150k
R75 N027 N026 13.5k
XU12 0 N001 +5 -5 N002 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R47 N005 N002 150k
XU13 N006 N005 +5 -5 sout level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R49 N006 shift 150k
R50 0 N006 150k
R51 sout N005 150k
R52 N001 N003 180k
R53 N002 N001 18k
XU14 0 N014 +5 -5 N015 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R54 N019 N015 150k
XU15 N020 N019 +5 -5 hout level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R55 N020 shift 150k
R56 0 N020 150k
R57 hout N019 150k
R58 N014 Hebbian 150k
R59 N015 N014 13.5k
XU16 N004 N003 +5 -5 N003 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D8 Sombrero N004 D
.model D D
.lib C:\Users\Arthur\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Arthur\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 6 0
.lib UniversalOpamps2.sub
.backanno
.end
