* TS12A4517
*****************************************************************************
* (C) Copyright 2012 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
** Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: TS12A4517
* Date: 10/04/2016
* Model Type: All In One
* Simulator: Pspice
* Simulator Version: Pspice 16.2.0.p001
* EVM Order Number: N/A 
* EVM Users Guide: N/A
* Datasheet: SCDS236B - December 2006 - Revised April 2009
*
* Model Version: 1.0
*
*****************************************************************************
*
* Updates:
*
* Version 1.0 : Release to Web
*
*****************************************************************************
******************************************************************************
*
* 
*$
.SUBCKT TS12A4517 IN NC COM VCC VEE PARAMS: VCC=5
E_E2         VMID 0 VCC N00366 0.5
R_R3		 VCC VEE 165k
C_C3         VMID NC  5.5pF
E_E3         N00366 0 VEE 0 1
C_C6         COM NC  0.2p 
X_S1    N2 0 NC COM DEV_SCH_S1_TS12A4517 PARAMS: VSUPP={VCC}
C_C2         VMID COM  5.5pF 
C_C4         0 N2  4.5nF 
E_E1         N1 0 IN 0 1
I_I1         IN VMID DC 10e-9Adc  
R_R2         N1 N2  10
X_S2    N2 0 COM N18848 DEV_SCH_S2_TS12A4517 PARAMS: VSUPP={VCC}
C_C5         0 N18848  5p
C_C1         VMID IN  1.5pF
.ENDS
*$
.subckt DEV_SCH_S1_TS12A4517 1 2 3 4  PARAMS: VSUPP=5
S_S1         3 4 1 2 _S1
RS_S1         1 2 1G
.MODEL         _S1 VSWITCH Roff=12 Ron=2.5e9 Voff={VSUPP-3} Von={VSUPP-2}
.ends
*$
.subckt DEV_SCH_S2_TS12A4517 1 2 3 4  PARAMS:VSUPP=5
S_S2         3 4 1 2 _S2
RS_S2         1 2 1G
.MODEL         _S2 VSWITCH Roff=1 Ron=1e6 Voff={VSUPP-3.0} Von={VSUPP-2.0}
.ends
*$

